US07442713B2
5-(4-Fluorophenyl)-4-pyridin-4-yl-1H-imidazole-2-thiol
Under an atmosphere of argon, 5-(4-fluorophenyl)-4-(4-pyridinyl)imidazole-2-thione (0.001 mol/0.271 g) was dissolved in 20 ml of absolute methanol. Sodium ethoxide (0.0012 mol/0.065 g) was then added and the mixture was stirred for 10 min. The bromoaliphatic compound (0.0011 mol) in question, dissolved in 10 ml of absolute methanol, was added dropwise to the initial charge. The mixture was then heated under reflux for 4 h and subsequently stirred at room temperature for 2 h. After neutralization with HCl 10% to pH 7, the liquid was removed under reduced pressure and the residue was worked up by column chromatography (mobile phase: CH2Cl2/EtOH 9:1; silica gel).

reactant | 5-(4-fluorophenyl)-4-(4-pyridinyl)imidazole-2-thione | 0.001 mol, 0.271 g | FC1=CC=C(C=C1)C=1C(=NC(N1)=S)C1=CC=NC=C1 | C14H8FN3S
reactant | Sodium ethoxide | 0.0012 mol, 0.065 g | [O-]CC.[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 5-(4-Fluorophenyl)-4-pyridin-4-yl-1H-imidazole-2-thiol | FC1=CC=C(C=C1)C1=C(N=C(N1)S)C1=CC=NC=C1 | C14H10FN3S
